Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
nuts / Sulfa (Sulfonamide Antibiotics) / peanut / coconut / 
cocoa / tree nut
 
Attending: ___
 
Chief Complaint:
Small Bowel Obstruction at Diverting Ileostomy Site
 
Major Surgical or Invasive Procedure:
Nasogastric Tube Insertion

 
History of Present Illness:
___ with history OF ulcerative colitis s/p total colectomy, J
pouch and diverting ileostomy in ___ in ___ followed by
ileostomy takedown who presents with her first episode of SBO. 

On ___ she was at the gym and noticed mild abdominal pain that
worsened over the following 8 hours and associated with nausea
and multiple episodes of vomiting. There was partial relief of
pain after vomiting. She had a single small loose bowel movement
this morning and has not passed flatus since (her baseline is 10
BM per day). No fevers, no SOB, no chest pain. 

She has a history of Graves disease and PE on coumadin for 6
months (___). 

 
Past Medical History:
PMH:
Ulcerative Colitis: diagnosed in her teenage years
Grave's disease: currently not on treatment
Pulmonary Embolism ___, on "medication" for 6 months. 
Gastroesophageal Reflux Disease
Uterine fibroids

PSH:
Ulcerative colitis s/p bowel resection an J-pouch in ___ in
___. 
Laparoscopic right salpinogoophorectomy, left ovarian 
cystectomy,
extensive lysis of adhesions, right uretorolysis, MIRENA IUD
insertion

 
Social History:
___
Family History:
Family History:
Father with prostate cancer
No family history of colon cancer
 
 
Physical Exam:
Physical Exam on Admission:
Gen: Appears well and comfortable. AxOx3
HEENT: EOMI, PEERLA, Eyes anicteric. Oral mucosa moist. Trachea
midline. No cervical LAD
Lungs: Chest rise symmetric, no gross chest wall deformities
Cards: RRR
Abdomen: Soft, nontender, slightly distended, no R/G
Extremities: No ___ edema

Physical Exam on Diacharge
Gen: Appears well and comfortable. AxOx3
HEENT: EOMI, PEERLA, Eyes anicteric. Oral mucosa moist. Trachea
midline. No cervical LAD
Lungs: Chest rise symmetric, no gross chest wall deformities, 
nonlabored breathing
Cards: RRR
Abdomen: Soft, nontender, slightly distended, no R/G
Extremities: No ___ edema

 
Pertinent Results:
___ 07:03AM BLOOD WBC-8.8 RBC-4.46 Hgb-9.2* Hct-32.0* 
MCV-72* MCH-20.6* MCHC-28.8* RDW-16.2* RDWSD-41.7 Plt ___
___ 07:03AM BLOOD Glucose-68* UreaN-8 Creat-0.7 Na-139 
K-3.9 Cl-101 HCO3-27 AnGap-11
___ 07:03AM BLOOD Calcium-8.1* Phos-2.7 Mg-1.9
 
Brief Hospital Course:
Ms ___ presented to ___ ED with signs and symptoms of 
bowel obstruction. The patient was diagnosed with Large bowel 
obstruction.  She was treated conservatively with nasogastric 
tube insertion and the patient tolerated this well. She was 
admitted for observation. The patient was also given IV 
hydration and bowel rest. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was initially kept NPO. After the patient had 
return of flatus and bowel movements she was later advanced to 
and tolerated a regular diet at time of discharge. Patient's 
intake and output were closely monitored
GU: The patients urine output was monitored as indicated. At 
time of discharge, the patient was voiding without difficulty.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever.
Heme: The patient had blood levels checked daily during their 
hospital course to monitor for signs of bleeding. The patient 
received subcutaneous heparin and ___ dyne boots were used 
during this stay,
On Hospital Day 3, the patient was discharged to home. At 
discharge, he/she was tolerating a regular diet, passing flatus, 
voiding, and ambulating independently. She will follow-up in the 
clinic in ___ weeks. This information was communicated to the 
patient directly prior to discharge.

 
Medications on Admission:
1.  biotin 1 mg oral ONCE  
 Ranitidine and Multivitamin
 
Discharge Medications:
1.  biotin 1 mg oral ONCE  
 Ranitidine and Multivitamin
Resume all Home medications

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Large Bowel Obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for a large bowel obstruction. 
You were given bowel rest, intravenous fluids, and a nasogastric 
tube was placed in your stomach to decompress your bowels. Your 
obstruction has subsequently resolved after conservative 
management. You are tolerating a regular diet, passing gas and 
your pain is controlled with pain medications by mouth. 
If you have any of the following symptoms please call the office 
or go to the emergency room if severe: increasing abdominal 
distension, increasing abdominal pain, nausea, vomiting, 
inability to tolerate food or liquids, prolonged loose stool, or 
extended constipation.
Thank you for allowing us to participate in your care, we wish 
you all the best! 

 
Followup Instructions:
___